US07939505B2
Fmoc-Dab(Boc)-resin.
To 3 g of 2-chlorotrityl chloride resin with 1.3 mmol/g substitution (Novabiochem, 01-64-0114) in 30 ml of dry DCM in 30 ml reaction vessel for solid phase synthesis, 2.577 g (5.85 mmol, 1.5 eq) of Fmoc-Dab(diBoc)-OH (Mw=440.5, (Fmoc-(N-γ-Boc)-L-α,γ-diaminobutyric acid, AnaSpec, 28246) and 2.23 ml (12.87 mmol, 3.3 eq) of DIPEA (Aldrich, Mw=129.2, d=0.74) were added.

reactant | 2-chlorotrityl chloride resin | 3 g | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | Fmoc-Dab(diBoc)-OH | 5.85 mmol, 2.577 g, 1.5 eq | N([C@@H](CCN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C29H36N2O8
reactant | DIPEA | 12.87 mmol, 2.23 ml, 3.3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | Fmoc-Dab(Boc) | N([C@@H](CCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H28N2O6
